US06358973B1
2-(3-Methoxy-phenyl)-2-phenyl-ethylamine
A mixture of 1-methoxy-3-(1-phenyl-2-nitro-propyl)-benzene (7.8 g, 30.33 mmoles), obtained as described in example 41, ammonium formate (9.56 g, 151.6 mmoles), methanol (80 ml), 10% Pd/C (1.8 g) and 3A molecular sieves (15 g) was kept under reflux for 2 hours, then filtered over celite by washing with methanol and brought to dryness. The residue was taken up with ethyl ether and extracted with 10% HCl. The aqueous phase was basified with K2CO3 and re-extracted with ethyl ether. The organic phase was anhydrified and brought to dryness to give 5.4 g of the title compound (yield: 78.4%).

reactant | 1-methoxy-3-(1-phenyl-2-nitro-propyl)-benzene | 30.33 mmoles, 7.8 g | COC1=CC(=CC=C1)C(C(C)[N+](=O)[O-])C1=CC=CC=C1 | C16H17NO3
reactant | ammonium formate | 151.6 mmoles, 9.56 g | C(=O)[O-].[NH4+]
catalyst | Pd/C | 1.8 g | [Pd] | Pd
solvent | methanol | 80 ml | CO | CH4O
product | 2-(3-Methoxy-phenyl)-2-phenyl-ethylamine | 5.4 g, yield: 78.4% | COC=1C=C(C=CC1)C(CN)C1=CC=CC=C1 | C15H17NO
